US04808734
By the procedure of Example 5 [3aR-[3a alpha,4alpha, (1E,3R*),5beta,6a alpha]]-4-[3-(1-methylcyclopentyl)-3-hydroxy-1-propenyl]hexahydro-5-hydroxy-2H-cyclopenta[b]furan-2-one was reacted with t-butyldimethylsilyl chloride to yield [3aR-[3a alpha,4alpha(1E,3R*),5 beta,6a alpha]]-4-[3-(1-methylcyclopentyl)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-propenyl]-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-hexahydro-2H-cyclopenta[b]furan-2-one.

reactant | 4-[3-(1-methylcyclopentyl)-3-hydroxy-1-propenyl]hexahydro-5-hydroxy-2H-cyclopenta[b]furan-2-one | CC1(CCCC1)C(C=CC1C(CC2OC(CC21)=O)O)O | C16H24O4
reactant | t-butyldimethylsilyl chloride | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
product | 4-[3-(1-methylcyclopentyl)-3-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-1-propenyl]-5-[[(1,1-dimethylethyl)dimethylsilyl]oxy]-hexahydro-2H-cyclopenta[b]furan-2-one | CC1(CCCC1)C(C=CC1C(CC2OC(CC21)=O)O[Si](C)(C)C(C)(C)C)O[Si](C)(C)C(C)(C)C | C28H52O4Si2
